US04384966
A mixture of 13.2 parts of dodecyl methylphosphite, 4.2 parts of diketene and 0.6 parts of bis-(t-butylcyclohexyl)-perdicarbonate was added dropwise over 30 minutes to 39.6 parts of dodecylmethylphosphite which was vigorously stirred at 85° C. in a nitrogen atmosphere. On completion of the addition the reaction mixture was heated for a further 30 minutes at 85° C., then the excess of dodecylmethylphosphite was removed on a wiped wall still at a wall temperature of 80° C. and pressure 0.013 mb. The residue was distilled on a wiped wall still at a wall temperature of 150° C. and pressure 0.013 mb, and gave dodecyl methyl 2-oxo-4-oxetanylmethylphosphonate as a colourless oil which had the following analysis by weight:

reactant | dodecyl methylphosphite | CP(OCCCCCCCCCCCC)([O-])[O-]
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | dodecylmethylphosphite | C(CCCCCCCCCCC)P([O-])([O-])([O-])C
product | dodecyl methyl 2-oxo-4-oxetanylmethylphosphonate | O=C1OC(C1)CP(OCCCCCCCCCCCC)(OC)=O | C17H33O5P
